US09328116B2
Hydrochloric acid in dioxane (4 N, 3 mL) was added to 5-iodo-1-(3-fluorophenyl)-1H-pyrazol-4-yl-carbamic acid 1,1-dimethylethyl ester (348 mg, 0.864 mmol) at ambient temperature. The reaction was stirred overnight at the same temperature. Solvent was removed under reduced pressure. The crude material was dissolved in ethyl acetate and saturated sodium bicarbonate solution. The layers were separated and the aqueous layer was extracted twice more with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate. After removal of the solvent under reduced pressure, the crude material was purified using silica gel column chromatography (20-60% ethyl acetate in hexanes) to afford 5-iodo-1-(3-fluorophenyl)-1H-pyrazol (210 mg, 0.695 mmol, 80% yield).

reactant | Hydrochloric acid | Cl | ClH
reactant | 5-iodo-1-(3-fluorophenyl)-1H-pyrazol-4-yl-carbamic acid 1,1-dimethylethyl ester | 0.864 mmol, 348 mg | CC(C)(C)OC(NC=1C=NN(C1I)C1=CC(=CC=C1)F)=O | C14H15FIN3O2
solvent | dioxane | 4 N, 3 mL | O1CCOCC1 | C4H8O2
product | 5-iodo-1-(3-fluorophenyl)-1H-pyrazol | 0.695 mmol, 210 mg, 80% yield | IC1=CC=NN1C1=CC(=CC=C1)F | C9H6FIN2
